US08633212B2
To a solution of 3-(4-methoxy-1′-oxo-1′,3′-dihydrospiro[cyclohexane-1,2′-indene]-6′-yl)benzonitrile (30 mg, 0.09 mmol) in CH2Cl2 (3 mL) was added TiCl4 (0.2 mL). It was stirred in microwave at 50° C. for 5 minutes. Then bis-trimethylsilylcarbodiimide (0.2 mL, 0.146 mmol) was added. The resulting mixture was stirred in microwave at 60° C. for 10 minutes. The reaction mixture was poured into ice-water, extracted with DCM. The combined organic phases were dried over anhydrous Na2SO4, and filtered. The filtrate was concentrated to give (E)-N-(5′-(3-cyanophenyl)-4-methoxyspiro[cyclohexane-1,2′-indene]-3′(1′H)-ylidene) cyanamide (30 mg, crude).

reactant | 3-(4-methoxy-1′-oxo-1′,3′-dihydrospiro[cyclohexane-1,2′-indene]-6′-yl)benzonitrile | 0.09 mmol, 30 mg | COC1CCC2(C(C3=CC(=CC=C3C2)C=2C=C(C#N)C=CC2)=O)CC1 | C22H21NO2
reactant | bis-trimethylsilylcarbodiimide | 0.146 mmol, 0.2 mL | C[Si](C)(C)N=C=N[Si](C)(C)C | C7H18N2Si2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.2 mL | Cl[Ti](Cl)(Cl)Cl
product | (E)-N-(5′-(3-cyanophenyl)-4-methoxyspiro[cyclohexane-1,2′-indene]-3′(1′H)-ylidene) cyanamide | 30 mg | C(#N)C=1C=C(C=CC1)C=1C=C2\C(\C3(CC2=CC1)CCC(CC3)OC)=N\C#N | C23H21N3O
